US07691850B2
a) (±)-1,1-dimethylethyl(3R,4S)-3-fluoro-4-[({[(phenylmethyl)oxy]carbonyl}amino)methyl]-1-pyrrolidinecarboxylate
To a stirred solution of (±)-1,1-dimethylethyl cis-3-hydroxy-4-[({[(phenylmethyl)oxy]carbonyl}amino)methyl]-1-pyrrolidinecarboxylate (0.8 g, 2.29 mmole), in DCM (50 mL) at −78° C. was added DAST dropwise (0.59 mL, 4.80 mmole). After 2 h, Aqueous Na2CO3 was added to the reaction solution and the layers separated. The organic layer was dried over Na2SO4 and concentrated under vacuum. Purification on silica (hexanes/EtOAc, 1:1) provided the title compound (0.68 g, 85%) as a colorless oil: LC-MS (ES) m/e 353 (M+H)+.

reactant | (±)-1,1-dimethylethyl cis-3-hydroxy-4-[({[(phenylmethyl)oxy]carbonyl}amino)methyl]-1-pyrrolidinecarboxylate | 2.29 mmole, 0.8 g | O[C@@H]1CN(C[C@@H]1CNC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C18H26N2O5
reactant | DAST | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (±)-1,1-dimethylethyl(3R,4S)-3-fluoro-4-[({[(phenylmethyl)oxy]carbonyl}amino)methyl]-1-pyrrolidinecarboxylate | 0.68 g, 85% | F[C@H]1CN(C[C@@H]1CNC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C18H25FN2O4
